US08058441B2
(a). 1-Acetyl-4-phenyl-6-(2-bromo-3-methylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline
Condensation of 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline (25 mg) with 2-bromo-3-methylbenzoic acid (19 mg) under the agency of HATU (68 mg) and N,N-diisopropylethylamine (32 μl) in dichloromethane (4 ml) was performed according to the method described in example 11.

reactant | 1-acetyl-6-amino-4-phenyl-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | 25 mg | C(C)(=O)N1C(CC(C2=CC(=CC=C12)N)(C)C1=CC=CC=C1)(C)C | C20H24N2O
reactant | 2-bromo-3-methylbenzoic acid | 19 mg | BrC1=C(C(=O)O)C=CC=C1C | C8H7BrO2
reactant | HATU | 68 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 32 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 1-Acetyl-4-phenyl-6-(2-bromo-3-methylbenzoyl)amino-1,2,3,4-tetrahydro-2,2,4-trimethylquinoline | C(C)(=O)N1C(CC(C2=CC(=CC=C12)NC(C1=C(C(=CC=C1)C)Br)=O)(C)C1=CC=CC=C1)(C)C | C28H29BrN2O2
